### PR TITLE
feat: Hölder's inequality for more than 2 functions

### PR DESCRIPTION
**Pull request by fpvandoorn**
* From the Sobolev project

Co-authored-by: Heather Macbeth 25316162+hrmacbeth@users.noreply.github.com

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 1]
```diff
@@ -175,6 +181,107 @@ theorem lintegral_mul_le_Lp_mul_Lq (μ : Measure α) {p q : ℝ} (hpq : p.IsConj
...
 #align ennreal.lintegral_mul_le_Lp_mul_Lq ENNReal.lintegral_mul_le_Lp_mul_Lq
 
+/-- A different formulation of Hölder's inequality for two functions, with two exponents that sum to
+1, instead of reciprocals of  -/
+theorem lintegral_mul_norm_pow_le {α} [MeasurableSpace α] {μ : Measure α}
+    {f g : α → ℝ≥0∞} (hf : AEMeasurable f μ) (hg : AEMeasurable g μ)
+    {p q : ℝ} (hp : 0 ≤ p) (hq : 0 ≤ q) (hpq : p + q = 1) :
+    ∫⁻ a, f a ^ p * g a ^ q ∂μ ≤ (∫⁻ a, f a ∂μ) ^ p * (∫⁻ a, g a ∂μ) ^ q := by
+  rcases hp.eq_or_lt with rfl|hp
+  · simp at hpq
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/MeanInequalities.lean:191]: can you squeeze this simp, to robustify? Same thing three lines below.

File: Mathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 2]
```diff
@@ -175,6 +181,107 @@ theorem lintegral_mul_le_Lp_mul_Lq (μ : Measure α) {p q : ℝ} (hpq : p.IsConj
...
+    subst hpq
+    simp
+  rcases hq.eq_or_lt with rfl|hq
+  · simp at hpq
+    subst hpq
+    simp
+  have h2p : 1 < 1 / p
+  · rw [one_div]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/MeanInequalities.lean:199]:
```suggestion
  have h2p : 1 < 1 / p := by
    rw [one_div]
```
I think this is the privileged style, to make it explicit that you are solving the `have` right away. Same thing below.

File: Mathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 3]
```diff
@@ -175,6 +181,107 @@ theorem lintegral_mul_le_Lp_mul_Lq (μ : Measure α) {p q : ℝ} (hpq : p.IsConj
...
+    apply one_lt_inv hp
+    linarith
+  have h2pq : 1 / (1 / p) + 1 / (1 / q) = 1
+  · simp [hp.ne', hq.ne', hpq]
+  have := ENNReal.lintegral_mul_le_Lp_mul_Lq μ ⟨h2p, h2pq⟩ (hf.pow_const p) (hg.pow_const q)
+  simpa [← ENNReal.rpow_mul, hp.ne', hq.ne'] using this
+
+/-- A version of Hölder with multiple arguments -/
+theorem lintegral_prod_norm_pow_le {α ι : Type*} [MeasurableSpace α] {μ : Measure α}
+    (s : Finset ι) (hs : s.Nonempty) {f : ι → α → ℝ≥0∞} (hf : ∀ i ∈ s, AEMeasurable (f i) μ)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/MeanInequalities.lean:209]: you don't need `hs`, since you can deduce it from `hp`.

File: Mathlib/MeasureTheory/Integral/MeanInequalities.lean (hunk 2 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/MeanInequalities.lean:199]: I personally like the style I had better. The bullet point also can only refer to the newly stated `have`, right?

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by sgouezel** [comment]
Oops, no bors.
You can merge master and, if everything builds and nothing has been added to master inbetween, then squash merge your PR to master. (I think. Let me ask on Zulip.)
